Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[C:6]([H:14])[H:16])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15],95.27918273054621
[O:1]([C:2]([C@:3]([C:4]([H:12])([H:13])[H:14])([C:7](=[C:5]=[O:6])[H:15])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],71.04220667357086
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([O-:5])=[C+:6][C:7]1([H:12])[H:13])([H:8])([H:9])[H:10],79.4247309061883
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([O+:6]=[C:5]([O:4]/[C:2](=[N:3]\[H:10])[H:9])[H:11])([H:7])[H:8],109.50429549679899
[C+:2](=[C:3]=[C-:4][C:5]([O:6][H:12])([H:10])[H:11])[H:9].[O:1]([H:7])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],1.5674607770531068
[H:10][H:11].[N:1](/[C:2](=[C:3](\[O:4][H:12])[C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],81.79154443182651
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])=[C:4]([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],1.872302427000804
[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1>>[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],51.6311821374934
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[N:1]([C:2](=[O:3])[H:9])([N+:7]#[C-:6])[H:8],84.4333696832812
[C:2]1([H:7])=[C:5]([H:10])[O:4][C:3]1([H:8])[H:9].[O:1]=[O:6]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],53.50620552468803
[C:1]([C:2]([C:4]([O:5][H:14])([H:12])[H:13])=[C:6]=[C:7]([O:3][H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],61.25119776442196
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:5][C:6](=[O:4])[H:8])[H:7],73.26448521924009
[N:1](=[C:2](/[C:3](=[C:4]([H:10])[H:11])[H:9])[O:7][N+:6]#[C-:5])\[H:8]>>[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8],34.55224251132231
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1](/[C:2](=[C:3](\[O:4][H:7])[H:9])[H:8])[C:5]#[N:6],63.3612965599498
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C@@:5]1([H:17])[O:6][C:7]1([H:16])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],48.94456818593121
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]=[C:4]([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])[H:9].[C:5]([H:10])([H:11])([H:12])[H:13],74.05065248763691
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[O:3][N:6]([H:12])[C:5]([H:7])([H:11])[N:4]1[H:10])([H:8])[H:9],101.012558994487
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1=[C:6]=[N:7][H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10],62.1740400084735
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],57.5133731209546
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]=[C:4]=[C:5]=[N:6][H:9])[H:8])[H:7],80.1765831683485
[C:1]([C:2][C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])([H:8])([H:9])[H:10].[O:3]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],0.18003663446349094
[C+:2]([N:4]([H:13])[H:14])=[C:5]=[N-:6].[C:1]([C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9],69.58778979382939
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([O:3][H:15])([N:4]([C:5]([H:11])([H:12])[H:14])[H:10])[C:6](=[O:7])[H:13])([H:8])[H:9],106.928653496346
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C:3](=[O:4])[C:5]([O:6][H:10])([H:11])[H:12])([H:7])[H:8].[H:9][H:13],75.2395782286555
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([N+:3]([C-:4]([C:5]#[C:6][H:11])[H:9])([H:8])[H:10])[H:7],78.4335535033147
[C:1]([C:2](=[C:3]=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],58.73039265942768
